US05123951
1-Carboethoxycyclopropanecarboxylic acid (5.54 grams, 0.035 mole), ethyl chloroformate (3.80 grams, 0.035 mole) and 4-chloro-N-methylaniline (4.96 grams, 0.035 mole) were reacted sequentially in the presence of triethylamine (3.54 grams, 0.035 mole) in a manner similar to that described in Example XXXIII to give 2.26 grams (0.008 mole) of ethyl 1-[N-(4-chlorophenyl)-N-methylaminocarbonyl]cyclopropanecarboxylate having a melting point of 53° C.-56.5° C. NMR analysis of the product indicated the following:

reactant | 1-Carboethoxycyclopropanecarboxylic acid | 0.035 mole, 5.54 grams | C(=O)(OCC)C1(CC1)C(=O)O | C7H10O4
reactant | ethyl chloroformate | 0.035 mole, 3.80 grams | ClC(=O)OCC | C3H5ClO2
reactant | 4-chloro-N-methylaniline | 0.035 mole, 4.96 grams | ClC1=CC=C(NC)C=C1 | C7H8ClN
reactant | triethylamine | 0.035 mole, 3.54 grams | C(C)N(CC)CC | C6H15N
product | ethyl 1-[N-(4-chlorophenyl)-N-methylaminocarbonyl]cyclopropanecarboxylate | 0.008 mole, 2.26 grams | ClC1=CC=C(C=C1)N(C(=O)C1(CC1)C(=O)OCC)C | C14H16ClNO3
